US07390925B2
Step A: Ethyl 3-hydroxy-3-(4-methoxyphenyl)propanoate
A solution of ethyl 3-(4-methoxyphenyl)-3-oxopropanoate (444 mg, 2 mmol) in methanol (4 mL) was added sodium borohydride (76 mg, 2.0 mmol) at 0° C. slowly. After addition, the reaction mixture was stirred at 0° C. for 30 min. Two drops of saturated sodium sulfate solution were added to the reaction mixture to quench the reaction. Methanol was removed in vacuo, and water was added to the residue. The aqueous solution was extrated with ethyl acetate (x3), and the combined organic layers were dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo. The crude mixture was purified by Flash Chromatography with eluent of 40% ethyl acetate/60% hexane to give the title compound as a clear oil (252 mg, 56% yield). 1H NMR (400 MHz, CDCl3) δ 1.22-1.28 (m, 3 H) 2.63-2.75 (m, 2 H) 3.79 (s, 3 H) 4.16 (q, J=7.13 Hz, 2 H) 5.07 (dd, J=9.06, 3.78 Hz, 1 H) 6.85-6.89 (m, 2 H) 7.24-7.31 (m, 2 H). HPLC retention time: 1.973 min (method A). MS (ESI) (M+Na)+ 246.96.

reactant | ethyl 3-(4-methoxyphenyl)-3-oxopropanoate | 2 mmol, 444 mg | COC1=CC=C(C=C1)C(CC(=O)OCC)=O | C12H14O4
reactant | sodium borohydride | 2.0 mmol, 76 mg | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
catalyst | sodium sulfate | Two drops | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | Ethyl 3-hydroxy-3-(4-methoxyphenyl)propanoate | 252 mg, 56% yield | OC(CC(=O)OCC)C1=CC=C(C=C1)OC | C12H16O4
